US09334279B2
To a dry 10 mL Schlenk flask equipped with a stir bar and placed under N2 atmosphere was added 2-bromo-4-methylthiazole (244 mg, 1.37 mmol) in THF (5 mL). The flask was cooled to −78° C. To the solution was added n-butyllithium in hexanes (0.55 mL, 1.37 mmol). The solution was stirred for 5 minutes. To the solution was added zinc(II) chloride in THF (2.74 mL, 1.37 mmol). A thick ppt. immediately formed which hindered stirring. The flask was immediately transfered to a r.t. water bath and the solution was allowed to warm to r.t. with stirring for 30 min. To the solution was added 2-chloro-4-fluoropyridine (150 mg, 1.14 mmol), then Pd(dppf)Cl2 (42 mg, 0.057 mmol). The vial was placed in a 60° C. heating block with stirring (t=0). The reaction mixture was transfered to a 125 mL separatory funnel and was diluted with Et2O:EtOAc (25 mL:25 mL). The solution was washed with water:brine (25 mL:25 mL). The aq. phase was extracted with EtOAc (25 mL). The combined organics were washed with brine (25 mL); dried over MgSO4; filtered; then concentrated in vacuo. The residue was subjected to silica gel chromatography to afford 2-(4-fluoropyridin-2-yl)-4-methylthiazole as an orange solid (54 mg, 24%).

reactant | 2-bromo-4-methylthiazole | 1.37 mmol, 244 mg | BrC=1SC=C(N1)C | C4H4BrNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-chloro-4-fluoropyridine | 1.14 mmol, 150 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Et2O | CCOCC | C4H10O
catalyst | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(dppf)Cl2 | 0.057 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.37 mmol, 2.74 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoropyridin-2-yl)-4-methylthiazole | 54 mg, 24% | FC1=CC(=NC=C1)C=1SC=C(N1)C | C9H7FN2S
